US07772223B2
5-Oxo-5-(3-Phenoxyazetidin-1-yl)-2,2-Diphenylpentanenitrile
A mixture of the product of preparation 64 (1.13 g, 7.6 mmol), 4-cyano-4,4-diphenylbutanoic acid [(2.4 g, 9.12 mmol), WO97/24325], 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.76 g, 9.12 mmol), 1-hydroxybenzotriazole hydrate (1.30 g, 9.12 mmol) and N,N-diisopropylethylamine (5.3 mL, 19 mmol) in dichloromethane (50 mL) was stirred at room temperature for 18 hours. The reaction mixture was then diluted with ethyl acetate (50 mL), washed with 2M hydrochloric acid (30 mL), and sodium hydrogen carbonate solution (30 mL), dried over magnesium sulfate and concentrated in vacuo. Purification of the residue by column chromatography on silica gel, eluting with pentane:ethyl acetate, 100:0 to 0:100, then afforded the title compound as a colourless oil in 75% yield, 2.28 g.

reactant | 4-cyano-4,4-diphenylbutanoic acid | 9.12 mmol, 2.4 g | C(#N)C(CCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H15NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 9.12 mmol, 1.76 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 9.12 mmol, 1.30 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 19 mmol, 5.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-Oxo-5-(3-Phenoxyazetidin-1-yl)-2,2-Diphenylpentanenitrile | 75% yield | O=C(CCC(C#N)(C1=CC=CC=C1)C1=CC=CC=C1)N1CC(C1)OC1=CC=CC=C1 | C26H24N2O2
